US06660744B1
Cis-tert-butyl N-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl]carbamate (2.05 g, 0.00344 mol) was triturated in anhydrous dichloromethane (50 mL) and the reaction mixture was cooled to 0° C. Trifluoroacetic acid (10 mL) was added dropwise and the resulting solution was warmed up to ambient temperature and stirred under an atmosphere of nitrogen for one and a half hour. The solvents were removed under reduced pressure, the residue suspended in water (50 mL) and basified with saturated aqueous sodium bicarbonate solution. It was extracted with dichloromethane (3×150 mL), the combined organic extracts were dried with magnesium sulfate and the solvent was removed under reduced pressure to yield cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino) cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (1.60 g, 0.00322 mol) as an off-white solid.

reactant | Cis-tert-butyl N-[(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)(phenyl)methyl]carbamate | 0.00344 mol, 2.05 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)C(NC(OC(C)(C)C)=O)C2=CC=CC=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C34H44N8O2
reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | cis-3-{4-[amino(phenyl)methyl]phenyl}-1-[4-(4-methylpiperazino) cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00322 mol, 1.60 g | NC(C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C)C2=CC=CC=C2 | C29H36N8
